US07495002B2
3-bromomethyl-4-cyano-isoquinoline
39 mg azo-isobutyronitrile are added to a boiling mixture of 400 mg 3-methyl-4-cyano-isoquinoline and 440 mg N-bromosuccinimide in 30 ml carbon tetrachloride. The reaction mixture is refluxed for two hours. After cooling to ambient temperature the precipitate formed is suction filtered and washed with carbon tetrachloride. The filtrate is evaporated down and chromatographed through a silica gel column with methylene chloride as eluant.

reactant | 3-methyl-4-cyano-isoquinoline | 400 mg | CC=1N=CC2=CC=CC=C2C1C#N | C11H8N2
reactant | N-bromosuccinimide | 440 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethyl-4-cyano-isoquinoline | BrCC=1N=CC2=CC=CC=C2C1C#N | C11H7BrN2
